US06140274
Then, 19.54 g of 4-(2,6-dichloro-4-(3,3-dichloro-2-propenyloxy)phenoxy)butyloxyacetaldehyde was dissolved in 200 ml of N,N-dimethylformamide, to which 25.3 g of 1,1,1-trichlorotrifluoroethane, 17.6 g of zinc dust and 2.0 g of aluminum chloride were added. After stirring at room temperature for 1.5 hours, the reaction mixture was filtered. The filtrate was poured into diluted hydrochloric acid and extracted twice with diethyl ether. The diethyl ether layers were combined, washed with water, dried over magnesium sulfate and then concentrated to give a crude product. The crude product was subjected to silica gel chromatography, which afforded 8.46 g of 3,5-dichloro-1-(3,3-dichloro-2-propenyloxy)-4-(4-(3-chloro-4,4-difluoro-2-hydoxy-3-butenyloxy)butyloxy)benzene (yield, 38%), nD22.5 1.5302.

reactant | 4-(2,6-dichloro-4-(3,3-dichloro-2-propenyloxy)phenoxy)butyloxyacetaldehyde | 19.54 g | ClC1=C(OCCCCOCC=O)C(=CC(=C1)OCC=C(Cl)Cl)Cl | C15H16Cl4O4
reactant | 1,1,1-trichlorotrifluoroethane | 25.3 g | ClC(C(F)(F)F)(Cl)Cl | C2Cl3F3
reactant | aluminum chloride | 2.0 g | [Cl-].[Al+3].[Cl-].[Cl-]
solvent | N,N-dimethylformamide | 200 ml | CN(C=O)C | C3H7NO
catalyst | zinc | 17.6 g | [Zn] | Zn
product | 3,5-dichloro-1-(3,3-dichloro-2-propenyloxy)-4-(4-(3-chloro-4,4-difluoro-2-hydoxy-3-butenyloxy)butyloxy)benzene | 8.46 g, 38% | ClC=1C=C(C=C(C1OCCCCOCC(C(=C(F)F)Cl)O)Cl)OCC=C(Cl)Cl | C17H17Cl5F2O4
